US07115611B2
C] [2-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol
0.193 g (0.576 mmol) of the above prepared 2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester in 3.0 ml of abs. THF was cooled down to 0° C. and reacted with 1.5 ml of DIBAL-H-solution (1.0 M in toluene, 2.6 eq.) for 1 h. Careful quenching with ice, filtration over Celite, separation of the layers, reextraction of the aqueous phase with AcOEt, washing of the combined organic layers with NH4Cl, and drying over magnesium sulfate was followed by evaporation of the solvents. The crude product was finally purified by flash chromatography (SiO2, hexane/AcOEt=7/3) to deliver 0.128 g of the title compound as white crystals.

reactant | 2-cyclopropyl-6-(4-trifluoromethyl-phenyl)-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C18H16F3NO2
reactant | DIBAL-H | 1.0 M, 1.5 ml, 2.6 eq. | CC(C)C[AlH]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | [2-Cyclopropyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-methanol | C1(CC1)C1=NC(=CC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C16H14F3NO
